* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 18k
R5 N003 0 5.6k
V1 0 N001 5
R4 N002 N004 18k
R1 N004 N003 10k
R3 N004 0 18k

.end